US06762320B2
a) 1,4-Difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene
Prepared in analogy to example 1a) from 2,4,5-trifluoronitrobenzene and 3-fluoro-benzyl alcohol. Colorless solid. Yield=55%. MS: m/e=283.1 (M+).

reactant | 2,4,5-trifluoronitrobenzene | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | 3-fluoro-benzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
product | 1,4-Difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene | Yield=55% | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)OCC1=CC(=CC=C1)F | C13H8F3NO3
